US06066657
4-Bromo-2-methanesulfonyl-7-methoxybenzofuran
Prepared from 2-methanesulfonyl-7-methoxybenzofuran (0.50 g) and N-bromosuccinimide (0.39 g) in acetonitrile (30 ml). Purification by flash chromatography on silica eluting with 50% ethyl acetate in hexane gave the title compound as a white solid (0.73 g).

reactant | 2-methanesulfonyl-7-methoxybenzofuran | 0.50 g | CS(=O)(=O)C=1OC2=C(C1)C=CC=C2OC | C10H10O4S
reactant | N-bromosuccinimide | 0.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-Bromo-2-methanesulfonyl-7-methoxybenzofuran | 0.73 g | BrC1=CC=C(C2=C1C=C(O2)S(=O)(=O)C)OC | C10H9BrO4S
